US08426411B2
To a solution of 1-(5-tosyl-5H-pyrrolo[2,3-b]pyrazin-2-yl)but-3-en-1-ol (0.14 g, 0.41 mmol) in DCM (10 mL) was added thionyl chloride (0.045 mL, 0.61 mmol). The reaction mixture was stirred for about 8 h at ambient temperature and then EtOAc and saturated aqueous NaHCO3 (10 mL each) were added. The organic layer was separated, dried over anhydrous Na2SO4, filtered and concd in vacuo. The crude chloride was dissolved in DMF (10 mL) and sodium azide (0.159 g, 2.45 mmol) was added to the reaction mixture. The reaction mixture was stirred for about 15 h at ambient temperature and then EtOAc and saturated aqueous NaHCO3 (10 mL each) were added to the reaction mixture. The organic layer was separated, concd in vacuo, and purified by chromatography on silica gel eluting with 10-60% EtOAc in heptane to provide 2-(1-azidobut-3-enyl)-5-tosyl-5H-pyrrolo[2,3-b]pyrazine (0.153 g, 87%) as an oil: LC/MS (Table 1, Method a) Rt=2.84 min; MS m/z: 369 (M+H)+.

reactant | 1-(5-tosyl-5H-pyrrolo[2,3-b]pyrazin-2-yl)but-3-en-1-ol | 0.41 mmol, 0.14 g | S(=O)(=O)(C1=CC=C(C)C=C1)N1C=CC=2C1=NC=C(N2)C(CC=C)O | C17H17N3O3S
reactant | thionyl chloride | 0.61 mmol, 0.045 mL | S(=O)(Cl)Cl | Cl2OS
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
reactant | sodium azide | 2.45 mmol, 0.159 g | [N-]=[N+]=[N-].[Na+]
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(1-azidobut-3-enyl)-5-tosyl-5H-pyrrolo[2,3-b]pyrazine | 0.153 g, 87% | N(=[N+]=[N-])C(CC=C)C=1N=C2C(=NC1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C17H16N6O2S
